* Example SPICE netlist netA.spice
*
.subckt cell1 A B C
R1 A B 100
R2 B C 100
.ends

.subckt cell2 A B C
C1 A B 1E-12
C2 B C 1E-12
.ends

.subckt cell3 A B C
D1 A B diode
D2 B C diode
.ends

.subckt test A B C
X1 A B C cell1
X2 A B A cell2
X3 C C A cell3
.ends
.end

